US04420325
2-(Methylsulfonyl)phenylmethyl carbamimidothioate hydrobromide
A solution of 36.5 g of 2-(methylsulfonyl)benzyl bromide and 11.4 g of thiourea in 500 ml absolute ethanol was stirred at reflux temperature for 11/2 hours and then allowed to cool to room temperature. Upon standing, the solution yielded white feather-like crystals which were collected by filtration, washed with cold 1-chlorobutane, and dried in vacuo. The yield of 2-(methylsulfonyl)phenylmethyl carbamimidothioate hydrobromide, m.p. 203°-206° C., was 36.3 g.

reactant | 2-(methylsulfonyl)benzyl bromide | 36.5 g | CS(=O)(=O)C1=C(CBr)C=CC=C1 | C8H9BrO2S
reactant | thiourea | 11.4 g | NC(=S)N | CH4N2S
solvent | ethanol | 500 ml | C(C)O | C2H6O
product | 2-(Methylsulfonyl)phenylmethyl carbamimidothioate hydrobromide | Br.C(N)(=N)SCC1=C(C=CC=C1)S(=O)(=O)C | InChI=1S/C9H12N2O2S2.BrH/c1-15(12,13)8-5-3-2-4-7(8)6-14-9(10)11;/h2-5H,6H2,1H3,(H3,10,11);1H
